US03978066
5-(Isopropylidenehydrazino)-1,3-dihydropyrrolo[4,3,2-de]isoquinoline (1, R1 = (CH3)2C=NNH)
5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline (4.5 g), described in Example 8, is boiled in acetone (ca. 50 ml) for 10 minutes. The reaction mixture is treated with charcoal, filtered and concentrated. Addition of ether-hexane gives a precipitate. The precipitate is recrystallized from benzenemethanol-ether to give the title compound, mp 200° - 201°C, νmaxnujol 3450, 3100, 1625, 1565, 1540 and 1510 cm-1.

reactant | 5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | 4.5 g | N(N)C1=NCC=2C=3C(=CC=CC13)NC2 | C10H10N4
reactant | charcoal | C | CH4
reactant | acetone | ca. 50 ml | CC(=O)C | C3H6O
product | 5-(Isopropylidenehydrazino)-1,3-dihydropyrrolo[4,3,2-de]isoquinoline | C(C)(C)=NNC1=NCC=2C=3C(=CC=CC13)NC2 | C13H14N4
